### PR TITLE
feat: nsmul, zsmul, and pow for `Dyadic` + `CanLift` instance to `ℤ`

### PR DESCRIPTION
**Pull request by plp127**
Extracted from #107.

### CODE REVIEW

File: CombinatorialGames/Surreal/Numeric.lean [hunk 1]
```diff
@@ -117,6 +117,22 @@ theorem IsDyadic.add {x y : ℚ} (hx : IsDyadic x) (hy : IsDyadic y) : IsDyadic
   rw [Rat.add_def']
   exact .mkRat _ (Submonoid.mul_mem _ hx hy)
 
+theorem IsDyadic.nsmul {x : ℚ} (n : ℕ) (hx : IsDyadic x) : IsDyadic (n • x) := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Numeric.lean]: We can outline the proofs of `IsDyadic ↑n`:
```lean 4
theorem IsDyadic.natCast (n : ℕ) : IsDyadic n := ⟨0, rfl⟩
theorem IsDyadic.intCast (n : ℤ) : IsDyadic n := ⟨0, rfl⟩
```
Then, these two theorems can be golfed down to
```lean 4
theorem IsDyadic.zsmul {x : ℚ} (n : ℤ) (hx : IsDyadic x) : IsDyadic (n • x) := by
  simpa using IsDyadic.mul (.intCast n) hx

theorem IsDyadic.nsmul {x : ℚ} (n : ℕ) (hx : IsDyadic x) : IsDyadic (n • x) := .zsmul n hx
```

**Review by vihdzp — APPROVED** [review]
